US08022062B2
4-(3,3-Dimethyl-butyl)-benzylamine:
Add 4N hydrogen chloride in dioxane (15 mL) to a stirred solution of N-(tert-butoxycarbonyl)-4-(3,3-dimethyl-butyl)-benzylamine (1.25 g, 4.29 mmol) in methanol (20 mL) and stir at room overnight. Concentrate in vacuo and wash the solid with diethyl ether. Suspend the solid in dichloromethane and saturated aqueous NaHCO3 and stir until both phases are clear (15 min). Extract the aqueous phase twice with dichloromethane. Dry the combined organic extracts over MgSO4, filter and concentrate in vacuo to give the title compound as an oil (0.654 g, 80%) that was used without any further purification. MS (ES+) m/z: 192 (M+H)+.

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | N-(tert-butoxycarbonyl)-4-(3,3-dimethyl-butyl)-benzylamine | 4.29 mmol, 1.25 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)CCC(C)(C)C | C18H29NO2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 4-(3,3-Dimethyl-butyl)-benzylamine | 0.654 g, 80% | CC(CCC1=CC=C(CN)C=C1)(C)C | C13H21N
